US07939513B2
A suspension of (S)-benzyl 2-((5aR,6aS,7S,10aS)-9-carbamoyl-4,7-bis(dimethylamino)-1,8,10a,11-tetrahydroxy-10,12-dioxo-5,5a,6,6a,7,10,10a,12-octahydrotetracen-2-ylcarbamoyl)pyrrolidine-1-carboxylate (200 mg, 0.29 mmol) and 10% Pd on charcoal in methanol (10 mL) was hydrogenated over 1 h. The reaction mixture was filtered through a pad of celite and the filtrate was poured into ether containing HCl to get (S)—N-((5aR,6aS,7S,10aS)-9-carbamoyl-4,7-bis(dimethylamino)-1,8,10a,11-tetrahydroxy-10,12-dioxo-5,5a,6,6a,7,10,10a,12-octahydrotetracen-2-yl)pyrrolidine-2-carboxamide (120 mg, 72%).

reactant | (S)-benzyl 2-((5aR,6aS,7S,10aS)-9-carbamoyl-4,7-bis(dimethylamino)-1,8,10a,11-tetrahydroxy-10,12-dioxo-5,5a,6,6a,7,10,10a,12-octahydrotetracen-2-ylcarbamoyl)pyrrolidine-1-carboxylate | 0.29 mmol, 200 mg | C(N)(=O)C1=C([C@H]([C@@H]2C[C@@H]3CC=4C(=CC(=C(C4C(C3=C([C@@]2(C1=O)O)O)=O)O)NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)N(C)C)N(C)C)O | C36H41N5O10
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd on charcoal | [Pd] | Pd
product | (S)—N-((5aR,6aS,7S,10aS)-9-carbamoyl-4,7-bis(dimethylamino)-1,8,10a,11-tetrahydroxy-10,12-dioxo-5,5a,6,6a,7,10,10a,12-octahydrotetracen-2-yl)pyrrolidine-2-carboxamide | 120 mg, 72% | C(N)(=O)C1=C([C@H]([C@@H]2C[C@@H]3CC=4C(=CC(=C(C4C(C3=C([C@@]2(C1=O)O)O)=O)O)NC(=O)[C@H]1NCCC1)N(C)C)N(C)C)O | C28H35N5O8
